************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113Lab2
* Top Cell Name: Or_Gate
* View Name:     schematic
* Netlisted on:  Dec  3 15:10:35 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    Or_Gate
* View Name:    schematic
************************************************************************

.SUBCKT Or_Gate GND VDD VIN_A VIN_B Vout
*.PININFO VIN_A:I VIN_B:I Vout:O GND:B VDD:B
MPM1 net15 VIN_A net016 VDD p18 W=440n L=180n m=1
MPM0 net016 VIN_B VDD VDD p18 W=440n L=180n m=1
MNM1 net15 VIN_B GND GND n18 W=220n L=180n m=1
MNM0 net15 VIN_A GND GND n18 W=220n L=180n m=1
XI1 GND VDD net15 Vout / inv
.ENDS

