************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_SPI
* Top Cell Name: RAM_v1
* View Name:     schematic
* Netlisted on:  Jan 18 16:43:18 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=660n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113_SPI
* Cell Name:    RAM_v1
* View Name:    schematic
************************************************************************

.SUBCKT RAM_v1 BL GND Q VDD WL
*.PININFO BL:I WL:I Q:O GND:B VDD:B
XI2 GND VDD BL net16 / inv
XI1 GND VDD Q net17 / inv
XI0 GND VDD net17 Q / inv
MNM0 net17 WL net16 GND n18 W=1.76u L=180n m=1
MNM1 BL WL Q GND n18 W=1.76u L=180n m=1
.ENDS

