************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113Lab2
* Top Cell Name: inv_v2
* View Name:     schematic
* Netlisted on:  Dec 14 22:25:18 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv_v2
* View Name:    schematic
************************************************************************

.SUBCKT inv_v2 GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=440n L=180n m=1
.ENDS

